US04271170
4-[(4-Methyl-3-pyridyl)hydroxymethyl]benzaldehyde diethylacetal
Under an atmosphere of nitrogen, a solution of 900 mg of 4-bromobenzaldehyde diethylacetal in 1.8 ml of tetrahydrofuran was added dropwise to 83 mg of magnesium at 50° C. to 60° C., and the mixture was stirred at that temperature for 10 minutes, and then diluted with 2 ml of tetrahydrofuran. The solution, thus obtained, was added dropwise to a solution of 280 mg of 4-methyl-3-formylpyridine [prepared as described in J. Org. Chem., 25, 560(1960)]in 7 ml of tetrahydrofuran at 0° C., and the mixture was stirred at the same temperature for one hour. The reaction mixture was quenched with a saturated aqueous solution of ammonium chloride, and concentrated under reduced pressure. To the residue was added a saturated aqueous solution of sodium bicarbonate, and the mixture was extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulphate and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel using a mixture of ethyl acetate and cyclohexane (7:3) as eluent to give 406 mg of the title compound having the following physical characteristics:

reactant | 4-bromobenzaldehyde diethylacetal | 900 mg | C(C)OC(C1=CC=C(C=C1)Br)OCC | C11H15BrO2
reactant | magnesium | 83 mg | [Mg] | Mg
reactant | 4-methyl-3-formylpyridine | 280 mg | CC1=C(C=NC=C1)C=O | C7H7NO
solvent | tetrahydrofuran | 1.8 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 4-[(4-Methyl-3-pyridyl)hydroxymethyl]benzaldehyde diethylacetal | 406 mg | C(C)OC(C1=CC=C(C=C1)C(O)C=1C=NC=CC1C)OCC | C18H23NO3
